US08048902B2
Following the procedure described in Example 36, Step 6, [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-phenyl-ethyl ester and [2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester were reacted to provide {4′-[3-Methyl-4-((R)-1-phenyl-ethoxycarbonylamino)-isoxazol-5-yl]-biphenyl-2-yl}-acetic ac id ethyl ester, which was hydrolyzed to the acid as described in Example 34, Step 2.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-phenyl-ethyl ester | C1(=CC=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H17BrN2O3
reactant | [2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H23BO4
product | {4′-[3-Methyl-4-((R)-1-phenyl-ethoxycarbonylamino)-isoxazol-5-yl]-biphenyl-2-yl}-acetic ac id ethyl ester | C(C)OC(CC1=C(C=CC=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)O[C@H](C)C1=CC=CC=C1)=O | C29H28N2O5
